US05478845
1-[2-(phenyl)-2-(3,4,5-trimethoxyphenylcarbamoyloxy)ethyl]4-(6-fluoro-1-methyl-1H-indazol-3-yl)piperidine
Starting from 1-(2-hydroxy-2-phenyl-ethyl)-4-(6-fluoro-1-methyl-1H -indazol-3-yl)-piperidine (300 mg; 0.85 mmol) and 3,4,5-trimethoxyphenylisocyanate (300 mg; 1.44 mmol) using the procedure described in example 8B was prepared 160 mg (34%) of the title compound.

reactant | 1-(2-hydroxy-2-phenyl-ethyl)-4-(6-fluoro-1-methyl-1H -indazol-3-yl)-piperidine | 0.85 mmol, 300 mg | OC(CN1CCC(CC1)C1=NN(C2=CC(=CC=C12)F)C)C1=CC=CC=C1 | C21H24FN3O
reactant | 3,4,5-trimethoxyphenylisocyanate | 1.44 mmol, 300 mg | COC=1C=C(C=C(C1OC)OC)N=C=O | C10H11NO4
product | 1-[2-(phenyl)-2-(3,4,5-trimethoxyphenylcarbamoyloxy)ethyl]4-(6-fluoro-1-methyl-1H-indazol-3-yl)piperidine | 160 mg, 34% | C1(=CC=CC=C1)C(CN1CCC(CC1)C1=NN(C2=CC(=CC=C12)F)C)OC(NC1=CC(=C(C(=C1)OC)OC)OC)=O | C31H35FN4O5
